US08030305B2
[3-(4-Methoxy-benzyl)-4-oxo-3,4-dihydro-quinazolin-6-yl]-acetic acid methyl ester (0.050 g, 0.148 mmol) and hydrazine (0.047 g, 0.148 mmol) were stirred at 50° C. in methanol (5 mL) for several hours. The reaction was then cooled to room temperature and filtered to give 0.030 g (60%) of [3-(4-methoxy-benzyl)-4-oxo-3,4-dihydro-quinazolin-6-yl]-acetic acid hydrazide. 1H NMR (400 MHz, CD3OD) δ 10.09 (s, 1H), 9.33 (s, 1H), 8.85 (m, 1H), 8.53 (d, 1H, J=2.0, 8.4 Hz), 8.42 (d, 1H, J=8.4 Hz), 8.14 (d, 2H, J=8.4 Hz), 7.70 (d, 2H, J=8.4 Hz), 5.93 (s, 2H), 5.04 (bs, 2H), 4.52 (s, 3H), 4.31 (s, 2H).

reactant | [3-(4-Methoxy-benzyl)-4-oxo-3,4-dihydro-quinazolin-6-yl]-acetic acid methyl ester | 0.148 mmol, 0.050 g | COC(CC=1C=C2C(N(C=NC2=CC1)CC1=CC=C(C=C1)OC)=O)=O | C19H18N2O4
reactant | hydrazine | 0.148 mmol, 0.047 g | NN | H4N2
solvent | methanol | 5 mL | CO | CH4O
product | [3-(4-methoxy-benzyl)-4-oxo-3,4-dihydro-quinazolin-6-yl]-acetic acid hydrazide | 0.030 g, 60% | COC1=CC=C(CN2C=NC3=CC=C(C=C3C2=O)CC(=O)NN)C=C1 | C18H18N4O3
